* sparx_blc_le - lumped-element equivalent (Ngspice / SPICE3)
* generated by snp2le
* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
* 
* 
.SUBCKT sparx_blc_le p1 p2 p3 p4
V1 p1 s1 0
R1 s1 0 50
Gd1_1 0 s1 p1 0 -0.008237299802
Fd1_1 0 s1 V1 -0.4118649901
Gr1_1_1 0 s1 x1_a1 0 -1.362761094
Gr2_1_1 0 s1 x2_a1 0 1.387363509
Gr3_re_1_1 0 s1 x3_re_a1 0 8950.644018
Gr3_im_1_1 0 s1 x3_im_a1 0 156006.6093
Gr4_re_1_1 0 s1 x4_re_a1 0 597193.4804
Gr4_im_1_1 0 s1 x4_im_a1 0 36540.61029
Gd1_2 0 s1 p2 0 0.007926068261
Fd1_2 0 s1 V2 0.3963034131
Gr1_1_2 0 s1 x1_a2 0 -3.214781758
Gr2_1_2 0 s1 x2_a2 0 3.081026987
Gr3_re_1_2 0 s1 x3_re_a2 0 637359.8845
Gr3_im_1_2 0 s1 x3_im_a2 0 61991.3493
Gr4_re_1_2 0 s1 x4_re_a2 0 178578.8792
Gr4_im_1_2 0 s1 x4_im_a2 0 -536965.0094
Gd1_3 0 s1 p3 0 -0.003961830649
Fd1_3 0 s1 V3 -0.1980915325
Gr1_1_3 0 s1 x1_a3 0 0.6166488395
Gr2_1_3 0 s1 x2_a3 0 -0.2451926379
Gr3_re_1_3 0 s1 x3_re_a3 0 -72610.31171
Gr3_im_1_3 0 s1 x3_im_a3 0 290928.4247
Gr4_re_1_3 0 s1 x4_re_a3 0 -495717.1682
Gr4_im_1_3 0 s1 x4_im_a3 0 72888.42701
Gd1_4 0 s1 p4 0 -0.002900501702
Fd1_4 0 s1 V4 -0.1450250851
Gr1_1_4 0 s1 x1_a4 0 0.4273601363
Gr2_1_4 0 s1 x2_a4 0 -0.2089474339
Gr3_re_1_4 0 s1 x3_re_a4 0 -351874.0251
Gr3_im_1_4 0 s1 x3_im_a4 0 -547501.0165
Gr4_re_1_4 0 s1 x4_re_a4 0 -237975.6681
Gr4_im_1_4 0 s1 x4_im_a4 0 419687.5849
Cx1_a1 x1_a1 0 7.18867913e-13
Gx1_a1 0 x1_a1 p1 0 0.06429563516
Fx1_a1 0 x1_a1 V1 3.214781758
Rp1_a1 0 x1_a1 1
Cx2_a1 x2_a1 0 9.093320969e-13
Gx2_a1 0 x2_a1 p1 0 0.06162053973
Fx2_a1 0 x2_a1 V1 3.081026987
Rp2_a1 0 x2_a1 1
Cx3_re_a1 x3_re_a1 0 1.675256742e-12
Gx3_re_a1 0 x3_re_a1 p1 0 6.03255164e-08
Fx3_re_a1 0 x3_re_a1 V1 3.01627582e-06
Rp3_re_re_a1 0 x3_re_a1 1
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 2.354990199
Cx3_im_a1 x3_im_a1 0 1.675256742e-12
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -2.354990199
Rp3_im_im_a1 0 x3_im_a1 1
Cx4_re_a1 x4_re_a1 0 2.635478041e-12
Gx4_re_a1 0 x4_re_a1 p1 0 7.746292171e-08
Fx4_re_a1 0 x4_re_a1 V1 3.873146086e-06
Rp4_re_re_a1 0 x4_re_a1 1
Gp4_re_im_a1 0 x4_re_a1 x4_im_a1 0 2.719857232
Cx4_im_a1 x4_im_a1 0 2.635478041e-12
Gp4_im_re_a1 0 x4_im_a1 x4_re_a1 0 -2.719857232
Rp4_im_im_a1 0 x4_im_a1 1
V2 p2 s2 0
R2 s2 0 50
Gd2_1 0 s2 p1 0 0.007926068261
Fd2_1 0 s2 V1 0.3963034131
Gr1_2_1 0 s2 x1_a1 0 -3.214781758
Gr2_2_1 0 s2 x2_a1 0 3.081026987
Gr3_re_2_1 0 s2 x3_re_a1 0 641233.7756
Gr3_im_2_1 0 s2 x3_im_a1 0 62368.13445
Gr4_re_2_1 0 s2 x4_re_a1 0 177950.9095
Gr4_im_2_1 0 s2 x4_im_a1 0 -535076.7807
Gd2_2 0 s2 p2 0 3.457183888e-05
Fd2_2 0 s2 V2 0.001728591944
Gr1_2_2 0 s2 x1_a2 0 -1.686568621
Gr2_2_2 0 s2 x2_a2 0 1.549616848
Gr3_re_2_2 0 s2 x3_re_a2 0 -76667.54704
Gr3_im_2_2 0 s2 x3_im_a2 0 54966.6186
Gr4_re_2_2 0 s2 x4_re_a2 0 590915.5452
Gr4_im_2_2 0 s2 x4_im_a2 0 2949.723154
Gd2_3 0 s2 p3 0 -0.002071807315
Fd2_3 0 s2 V3 -0.1035903658
Gr1_2_3 0 s2 x1_a3 0 0.4229557748
Gr2_2_3 0 s2 x2_a3 0 -0.1867165061
Gr3_re_2_3 0 s2 x3_re_a3 0 -487806.5563
Gr3_im_2_3 0 s2 x3_im_a3 0 -557544.9967
Gr4_re_2_3 0 s2 x4_re_a3 0 -178817.3008
Gr4_im_2_3 0 s2 x4_im_a3 0 472232.2181
Gd2_4 0 s2 p4 0 -0.003653273142
Fd2_4 0 s2 V4 -0.1826636571
Gr1_2_4 0 s2 x1_a4 0 0.2318719287
Gr2_2_4 0 s2 x2_a4 0 0.1404564862
Gr3_re_2_4 0 s2 x3_re_a4 0 77766.18293
Gr3_im_2_4 0 s2 x3_im_a4 0 359365.444
Gr4_re_2_4 0 s2 x4_re_a4 0 -481687.915
Gr4_im_2_4 0 s2 x4_im_a4 0 40433.49968
Cx1_a2 x1_a2 0 7.18867913e-13
Gx1_a2 0 x1_a2 p2 0 0.06429563516
Fx1_a2 0 x1_a2 V2 3.214781758
Rp1_a2 0 x1_a2 1
Cx2_a2 x2_a2 0 9.093320969e-13
Gx2_a2 0 x2_a2 p2 0 0.06162053973
Fx2_a2 0 x2_a2 V2 3.081026987
Rp2_a2 0 x2_a2 1
Cx3_re_a2 x3_re_a2 0 1.675256742e-12
Gx3_re_a2 0 x3_re_a2 p2 0 6.069217656e-08
Fx3_re_a2 0 x3_re_a2 V2 3.034608828e-06
Rp3_re_re_a2 0 x3_re_a2 1
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 2.354990199
Cx3_im_a2 x3_im_a2 0 1.675256742e-12
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -2.354990199
Rp3_im_im_a2 0 x3_im_a2 1
Cx4_re_a2 x4_re_a2 0 2.635478041e-12
Gx4_re_a2 0 x4_re_a2 p2 0 7.719052462e-08
Fx4_re_a2 0 x4_re_a2 V2 3.859526231e-06
Rp4_re_re_a2 0 x4_re_a2 1
Gp4_re_im_a2 0 x4_re_a2 x4_im_a2 0 2.719857232
Cx4_im_a2 x4_im_a2 0 2.635478041e-12
Gp4_im_re_a2 0 x4_im_a2 x4_re_a2 0 -2.719857232
Rp4_im_im_a2 0 x4_im_a2 1
V3 p3 s3 0
R3 s3 0 50
Gd3_1 0 s3 p1 0 -0.003961830649
Fd3_1 0 s3 V1 -0.1980915325
Gr1_3_1 0 s3 x1_a1 0 0.6562628791
Gr2_3_1 0 s3 x2_a1 0 -0.25973527
Gr3_re_3_1 0 s3 x3_re_a1 0 -74819.74194
Gr3_im_3_1 0 s3 x3_im_a1 0 299780.9697
Gr4_re_3_1 0 s3 x4_re_a1 0 -518231.4268
Gr4_im_3_1 0 s3 x4_im_a1 0 76198.84068
Gd3_2 0 s3 p2 0 -0.002071807315
Fd3_2 0 s3 V2 -0.1035903658
Gr1_3_2 0 s3 x1_a2 0 0.4501268092
Gr2_3_2 0 s3 x2_a2 0 -0.1977908576
Gr3_re_3_2 0 s3 x3_re_a2 0 -499613.1648
Gr3_im_3_2 0 s3 x3_im_a2 0 -571039.517
Gr4_re_3_2 0 s3 x4_re_a2 0 -187598.431
Gr4_im_3_2 0 s3 x4_im_a2 0 495421.9911
Gd3_3 0 s3 p3 0 0.001548937054
Fd3_3 0 s3 V3 0.0774468527
Gr1_3_3 0 s3 x1_a3 0 -2.157654588
Gr2_3_3 0 s3 x2_a3 0 2.002551567
Gr3_re_3_3 0 s3 x3_re_a3 0 85733.89236
Gr3_im_3_3 0 s3 x3_im_a3 0 179305.1302
Gr4_re_3_3 0 s3 x4_re_a3 0 634747.3784
Gr4_im_3_3 0 s3 x4_im_a3 0 -131404.334
Gd3_4 0 s3 p4 0 0.01013404252
Fd3_4 0 s3 V4 0.5067021258
Gr1_3_4 0 s3 x1_a4 0 -3.421302039
Gr2_3_4 0 s3 x2_a4 0 3.263765923
Gr3_re_3_4 0 s3 x3_re_a4 0 688930.0227
Gr3_im_3_4 0 s3 x3_im_a4 0 40965.75453
Gr4_re_3_4 0 s3 x4_re_a4 0 186625.5616
Gr4_im_3_4 0 s3 x4_im_a4 0 -558481.1939
Cx1_a3 x1_a3 0 7.18867913e-13
Gx1_a3 0 x1_a3 p3 0 0.06842604079
Fx1_a3 0 x1_a3 V3 3.421302039
Rp1_a3 0 x1_a3 1
Cx2_a3 x2_a3 0 9.093320969e-13
Gx2_a3 0 x2_a3 p3 0 0.06527531847
Fx2_a3 0 x2_a3 V3 3.263765923
Rp2_a3 0 x2_a3 1
Cx3_re_a3 x3_re_a3 0 1.675256742e-12
Gx3_re_a3 0 x3_re_a3 p3 0 6.216113749e-08
Fx3_re_a3 0 x3_re_a3 V3 3.108056874e-06
Rp3_re_re_a3 0 x3_re_a3 1
Gp3_re_im_a3 0 x3_re_a3 x3_im_a3 0 2.354990199
Cx3_im_a3 x3_im_a3 0 1.675256742e-12
Gp3_im_re_a3 0 x3_im_a3 x3_re_a3 0 -2.354990199
Rp3_im_im_a3 0 x3_im_a3 1
Cx4_re_a3 x4_re_a3 0 2.635478041e-12
Gx4_re_a3 0 x4_re_a3 p3 0 8.098109772e-08
Fx4_re_a3 0 x4_re_a3 V3 4.049054886e-06
Rp4_re_re_a3 0 x4_re_a3 1
Gp4_re_im_a3 0 x4_re_a3 x4_im_a3 0 2.719857232
Cx4_im_a3 x4_im_a3 0 2.635478041e-12
Gp4_im_re_a3 0 x4_im_a3 x4_re_a3 0 -2.719857232
Rp4_im_im_a3 0 x4_im_a3 1
V4 p4 s4 0
R4 s4 0 50
Gd4_1 0 s4 p1 0 -0.002900501702
Fd4_1 0 s4 V1 -0.1450250851
Gr1_4_1 0 s4 x1_a1 0 0.4548141106
Gr2_4_1 0 s4 x2_a1 0 -0.221340325
Gr3_re_4_1 0 s4 x3_re_a1 0 -360390.5954
Gr3_im_4_1 0 s4 x3_im_a1 0 -560752.4377
Gr4_re_4_1 0 s4 x4_re_a1 0 -245088.8797
Gr4_im_4_1 0 s4 x4_im_a1 0 432232.2565
Gd4_2 0 s4 p2 0 -0.003653273142
Fd4_2 0 s4 V2 -0.1826636571
Gr1_4_2 0 s4 x1_a2 0 0.2467675762
Gr2_4_2 0 s4 x2_a2 0 0.1487871075
Gr3_re_4_2 0 s4 x3_re_a2 0 79167.21343
Gr3_im_4_2 0 s4 x3_im_a2 0 365839.7485
Gr4_re_4_2 0 s4 x4_re_a2 0 -497836.4412
Gr4_im_4_2 0 s4 x4_im_a2 0 41789.02763
Gd4_3 0 s4 p3 0 0.01013404252
Fd4_3 0 s4 V3 0.5067021258
Gr1_4_3 0 s4 x1_a3 0 -3.421302039
Gr2_4_3 0 s4 x2_a3 0 3.263765923
Gr3_re_4_3 0 s4 x3_re_a3 0 684767.9838
Gr3_im_4_3 0 s4 x3_im_a3 0 40718.26777
Gr4_re_4_3 0 s4 x4_re_a3 0 183853.7082
Gr4_im_4_3 0 s4 x4_im_a3 0 -550186.3601
Gd4_4 0 s4 p4 0 0.0005498918918
Fd4_4 0 s4 V4 0.02749459459
Gr1_4_4 0 s4 x1_a4 0 -1.781736746
Gr2_4_4 0 s4 x2_a4 0 1.655765506
Gr3_re_4_4 0 s4 x3_re_a4 0 -29672.87816
Gr3_im_4_4 0 s4 x3_im_a4 0 116529.2734
Gr4_re_4_4 0 s4 x4_re_a4 0 606882.6392
Gr4_im_4_4 0 s4 x4_im_a4 0 -45032.66912
Cx1_a4 x1_a4 0 7.18867913e-13
Gx1_a4 0 x1_a4 p4 0 0.06842604079
Fx1_a4 0 x1_a4 V4 3.421302039
Rp1_a4 0 x1_a4 1
Cx2_a4 x2_a4 0 9.093320969e-13
Gx2_a4 0 x2_a4 p4 0 0.06527531847
Fx2_a4 0 x2_a4 V4 3.263765923
Rp2_a4 0 x2_a4 1
Cx3_re_a4 x3_re_a4 0 1.675256742e-12
Gx3_re_a4 0 x3_re_a4 p4 0 6.178560287e-08
Fx3_re_a4 0 x3_re_a4 V4 3.089280144e-06
Rp3_re_re_a4 0 x3_re_a4 1
Gp3_re_im_a4 0 x3_re_a4 x3_im_a4 0 2.354990199
Cx3_im_a4 x3_im_a4 0 1.675256742e-12
Gp3_im_re_a4 0 x3_im_a4 x3_re_a4 0 -2.354990199
Rp3_im_im_a4 0 x3_im_a4 1
Cx4_re_a4 x4_re_a4 0 2.635478041e-12
Gx4_re_a4 0 x4_re_a4 p4 0 7.977832716e-08
Fx4_re_a4 0 x4_re_a4 V4 3.988916358e-06
Rp4_re_re_a4 0 x4_re_a4 1
Gp4_re_im_a4 0 x4_re_a4 x4_im_a4 0 2.719857232
Cx4_im_a4 x4_im_a4 0 2.635478041e-12
Gp4_im_re_a4 0 x4_im_a4 x4_re_a4 0 -2.719857232
Rp4_im_im_a4 0 x4_im_a4 1
.ENDS sparx_blc_le
