* sparx_blc_le - lumped-element equivalent (Ngspice / SPICE3)
* generated by snp2le
* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
* 
* 
.SUBCKT sparx_blc_le p1 p2 p3 p4
V1 p1 s1 0
R1 s1 0 50
Gd1_1 0 s1 p1 0 -0.008233022459
Fd1_1 0 s1 V1 -0.4116511229
Gr1_1_1 0 s1 x1_a1 0 -1.368093368
Gr2_1_1 0 s1 x2_a1 0 1.392213877
Gr3_re_1_1 0 s1 x3_re_a1 0 9262.6336
Gr3_im_1_1 0 s1 x3_im_a1 0 155476.8645
Gr4_re_1_1 0 s1 x4_re_a1 0 596902.9139
Gr4_im_1_1 0 s1 x4_im_a1 0 36186.75536
Gd1_2 0 s1 p2 0 0.007915674462
Fd1_2 0 s1 V2 0.3957837231
Gr1_1_2 0 s1 x1_a2 0 -3.223493627
Gr2_1_2 0 s1 x2_a2 0 3.090224135
Gr3_re_1_2 0 s1 x3_re_a2 0 637057.0154
Gr3_im_1_2 0 s1 x3_im_a2 0 60642.96124
Gr4_re_1_2 0 s1 x4_re_a2 0 177914.0332
Gr4_im_1_2 0 s1 x4_im_a2 0 -536797.3379
Gd1_3 0 s1 p3 0 -0.00395554718
Fd1_3 0 s1 V3 -0.197777359
Gr1_1_3 0 s1 x1_a3 0 0.6162839852
Gr2_1_3 0 s1 x2_a3 0 -0.246148593
Gr3_re_1_3 0 s1 x3_re_a3 0 -72101.85221
Gr3_im_1_3 0 s1 x3_im_a3 0 291309.9196
Gr4_re_1_3 0 s1 x4_re_a3 0 -495740.9549
Gr4_im_1_3 0 s1 x4_im_a3 0 72973.72777
Gd1_4 0 s1 p4 0 -0.002901723494
Fd1_4 0 s1 V4 -0.1450861747
Gr1_1_4 0 s1 x1_a4 0 0.4280974323
Gr2_1_4 0 s1 x2_a4 0 -0.210112819
Gr3_re_1_4 0 s1 x3_re_a4 0 -352528.3432
Gr3_im_1_4 0 s1 x3_im_a4 0 -546859.601
Gr4_re_1_4 0 s1 x4_re_a4 0 -237547.515
Gr4_im_1_4 0 s1 x4_im_a4 0 419483.4231
Cx1_a1 x1_a1 0 7.197135224e-13
Gx1_a1 0 x1_a1 p1 0 0.06446987254
Fx1_a1 0 x1_a1 V1 3.223493627
Rp1_a1 0 x1_a1 1
Cx2_a1 x2_a1 0 9.08867254e-13
Gx2_a1 0 x2_a1 p1 0 0.06180448271
Fx2_a1 0 x2_a1 V1 3.090224135
Rp2_a1 0 x2_a1 1
Cx3_re_a1 x3_re_a1 0 1.675443854e-12
Gx3_re_a1 0 x3_re_a1 p1 0 6.025835651e-08
Fx3_re_a1 0 x3_re_a1 V1 3.012917826e-06
Rp3_re_re_a1 0 x3_re_a1 1
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 2.355968302
Cx3_im_a1 x3_im_a1 0 1.675443854e-12
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -2.355968302
Rp3_im_im_a1 0 x3_im_a1 1
Cx4_re_a1 x4_re_a1 0 2.635686044e-12
Gx4_re_a1 0 x4_re_a1 p1 0 7.742163207e-08
Fx4_re_a1 0 x4_re_a1 V1 3.871081603e-06
Rp4_re_re_a1 0 x4_re_a1 1
Gp4_re_im_a1 0 x4_re_a1 x4_im_a1 0 2.720411116
Cx4_im_a1 x4_im_a1 0 2.635686044e-12
Gp4_im_re_a1 0 x4_im_a1 x4_re_a1 0 -2.720411116
Rp4_im_im_a1 0 x4_im_a1 1
V2 p2 s2 0
R2 s2 0 50
Gd2_1 0 s2 p1 0 0.007915674462
Fd2_1 0 s2 V1 0.3957837231
Gr1_2_1 0 s2 x1_a1 0 -3.223493627
Gr2_2_1 0 s2 x2_a1 0 3.090224135
Gr3_re_2_1 0 s2 x3_re_a1 0 640855.7773
Gr3_im_2_1 0 s2 x3_im_a1 0 61004.57436
Gr4_re_2_1 0 s2 x4_re_a1 0 177285.2192
Gr4_im_2_1 0 s2 x4_im_a1 0 -534900.0976
Gd2_2 0 s2 p2 0 3.636339669e-05
Fd2_2 0 s2 V2 0.001818169834
Gr1_2_2 0 s2 x1_a2 0 -1.692455578
Gr2_2_2 0 s2 x2_a2 0 1.555594164
Gr3_re_2_2 0 s2 x3_re_a2 0 -76604.75865
Gr3_im_2_2 0 s2 x3_im_a2 0 54332.71117
Gr4_re_2_2 0 s2 x4_re_a2 0 590596.2299
Gr4_im_2_2 0 s2 x4_im_a2 0 2694.017214
Gd2_3 0 s2 p3 0 -0.002075885978
Fd2_3 0 s2 V3 -0.1037942989
Gr1_2_3 0 s2 x1_a3 0 0.4236100291
Gr2_2_3 0 s2 x2_a3 0 -0.1877683593
Gr3_re_2_3 0 s2 x3_re_a3 0 -488559.3921
Gr3_im_2_3 0 s2 x3_im_a3 0 -556700.7994
Gr4_re_2_3 0 s2 x4_re_a3 0 -178299.9681
Gr4_im_2_3 0 s2 x4_im_a3 0 472025.8102
Gd2_4 0 s2 p4 0 -0.003648447943
Fd2_4 0 s2 V4 -0.1824223972
Gr1_2_4 0 s2 x1_a4 0 0.2305844385
Gr2_2_4 0 s2 x2_a4 0 0.1404264941
Gr3_re_2_4 0 s2 x3_re_a4 0 78237.58647
Gr3_im_2_4 0 s2 x3_im_a4 0 359561.4878
Gr4_re_2_4 0 s2 x4_re_a4 0 -481712.6777
Gr4_im_2_4 0 s2 x4_im_a4 0 40601.71636
Cx1_a2 x1_a2 0 7.197135224e-13
Gx1_a2 0 x1_a2 p2 0 0.06446987254
Fx1_a2 0 x1_a2 V2 3.223493627
Rp1_a2 0 x1_a2 1
Cx2_a2 x2_a2 0 9.08867254e-13
Gx2_a2 0 x2_a2 p2 0 0.06180448271
Fx2_a2 0 x2_a2 V2 3.090224135
Rp2_a2 0 x2_a2 1
Cx3_re_a2 x3_re_a2 0 1.675443854e-12
Gx3_re_a2 0 x3_re_a2 p2 0 6.061767624e-08
Fx3_re_a2 0 x3_re_a2 V2 3.030883812e-06
Rp3_re_re_a2 0 x3_re_a2 1
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 2.355968302
Cx3_im_a2 x3_im_a2 0 1.675443854e-12
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -2.355968302
Rp3_im_im_a2 0 x3_im_a2 1
Cx4_re_a2 x4_re_a2 0 2.635686044e-12
Gx4_re_a2 0 x4_re_a2 p2 0 7.714799539e-08
Fx4_re_a2 0 x4_re_a2 V2 3.857399769e-06
Rp4_re_re_a2 0 x4_re_a2 1
Gp4_re_im_a2 0 x4_re_a2 x4_im_a2 0 2.720411116
Cx4_im_a2 x4_im_a2 0 2.635686044e-12
Gp4_im_re_a2 0 x4_im_a2 x4_re_a2 0 -2.720411116
Rp4_im_im_a2 0 x4_im_a2 1
V3 p3 s3 0
R3 s3 0 50
Gd3_1 0 s3 p1 0 -0.00395554718
Fd3_1 0 s3 V1 -0.197777359
Gr1_3_1 0 s3 x1_a1 0 0.6560970244
Gr2_3_1 0 s3 x2_a1 0 -0.2608458657
Gr3_re_3_1 0 s3 x3_re_a1 0 -74297.80367
Gr3_im_3_1 0 s3 x3_im_a1 0 300182.125
Gr4_re_3_1 0 s3 x4_re_a1 0 -518386.2003
Gr4_im_3_1 0 s3 x4_im_a1 0 76307.138
Gd3_2 0 s3 p2 0 -0.002075885978
Fd3_2 0 s3 V2 -0.1037942989
Gr1_3_2 0 s3 x1_a2 0 0.4509759888
Gr2_3_2 0 s3 x2_a2 0 -0.1989798099
Gr3_re_3_2 0 s3 x3_re_a2 0 -500454.8699
Gr3_im_3_2 0 s3 x3_im_a2 0 -570255.3889
Gr4_re_3_2 0 s3 x4_re_a2 0 -187105.9398
Gr4_im_3_2 0 s3 x4_im_a2 0 495338.4667
Gd3_3 0 s3 p3 0 0.001554515221
Fd3_3 0 s3 V3 0.07772576107
Gr1_3_3 0 s3 x1_a3 0 -2.166014543
Gr2_3_3 0 s3 x2_a3 0 2.011066543
Gr3_re_3_3 0 s3 x3_re_a3 0 86030.18214
Gr3_im_3_3 0 s3 x3_im_a3 0 178763.848
Gr4_re_3_3 0 s3 x4_re_a3 0 634888.709
Gr4_im_3_3 0 s3 x4_im_a3 0 -131630.1636
Gd3_4 0 s3 p4 0 0.01012511688
Fd3_4 0 s3 V4 0.5062558439
Gr1_3_4 0 s3 x1_a4 0 -3.431737036
Gr2_3_4 0 s3 x2_a4 0 3.274738157
Gr3_re_3_4 0 s3 x3_re_a4 0 688815.5822
Gr3_im_3_4 0 s3 x3_im_a4 0 39526.85079
Gr4_re_3_4 0 s3 x4_re_a4 0 186408.4513
Gr4_im_3_4 0 s3 x4_im_a4 0 -558165.7981
Cx1_a3 x1_a3 0 7.197135224e-13
Gx1_a3 0 x1_a3 p3 0 0.06863474072
Fx1_a3 0 x1_a3 V3 3.431737036
Rp1_a3 0 x1_a3 1
Cx2_a3 x2_a3 0 9.08867254e-13
Gx2_a3 0 x2_a3 p3 0 0.06549476315
Fx2_a3 0 x2_a3 V3 3.274738157
Rp2_a3 0 x2_a3 1
Cx3_re_a3 x3_re_a3 0 1.675443854e-12
Gx3_re_a3 0 x3_re_a3 p3 0 6.20935996e-08
Fx3_re_a3 0 x3_re_a3 V3 3.10467998e-06
Rp3_re_re_a3 0 x3_re_a3 1
Gp3_re_im_a3 0 x3_re_a3 x3_im_a3 0 2.355968302
Cx3_im_a3 x3_im_a3 0 1.675443854e-12
Gp3_im_re_a3 0 x3_im_a3 x3_re_a3 0 -2.355968302
Rp3_im_im_a3 0 x3_im_a3 1
Cx4_re_a3 x4_re_a3 0 2.635686044e-12
Gx4_re_a3 0 x4_re_a3 p3 0 8.095822076e-08
Fx4_re_a3 0 x4_re_a3 V3 4.047911038e-06
Rp4_re_re_a3 0 x4_re_a3 1
Gp4_re_im_a3 0 x4_re_a3 x4_im_a3 0 2.720411116
Cx4_im_a3 x4_im_a3 0 2.635686044e-12
Gp4_im_re_a3 0 x4_im_a3 x4_re_a3 0 -2.720411116
Rp4_im_im_a3 0 x4_im_a3 1
V4 p4 s4 0
R4 s4 0 50
Gd4_1 0 s4 p1 0 -0.002901723494
Fd4_1 0 s4 V1 -0.1450861747
Gr1_4_1 0 s4 x1_a1 0 0.4557532862
Gr2_4_1 0 s4 x2_a1 0 -0.2226584337
Gr3_re_4_1 0 s4 x3_re_a1 0 -361111.7277
Gr3_im_4_1 0 s4 x3_im_a1 0 -560174.5763
Gr4_re_4_1 0 s4 x4_re_a1 0 -244715.7613
Gr4_im_4_1 0 s4 x4_im_a1 0 432141.7769
Gd4_2 0 s4 p2 0 -0.003648447943
Fd4_2 0 s4 V2 -0.1824223972
Gr1_4_2 0 s4 x1_a2 0 0.2454806024
Gr2_4_2 0 s4 x2_a2 0 0.1488112119
Gr3_re_4_2 0 s4 x3_re_a2 0 79667.46466
Gr3_im_4_2 0 s4 x3_im_a2 0 366132.8706
Gr4_re_4_2 0 s4 x4_re_a2 0 -498009.0128
Gr4_im_4_2 0 s4 x4_im_a2 0 41975.27202
Gd4_3 0 s4 p3 0 0.01012511688
Fd4_3 0 s4 V3 0.5062558439
Gr1_4_3 0 s4 x1_a3 0 -3.431737036
Gr2_4_3 0 s4 x2_a3 0 3.274738157
Gr3_re_4_3 0 s4 x3_re_a3 0 684732.5318
Gr3_im_4_3 0 s4 x3_im_a3 0 39292.54988
Gr4_re_4_3 0 s4 x4_re_a3 0 183644.707
Gr4_im_4_3 0 s4 x4_im_a3 0 -549890.2742
Gd4_4 0 s4 p4 0 0.0005503852415
Fd4_4 0 s4 V4 0.02751926208
Gr1_4_4 0 s4 x1_a4 0 -1.788499471
Gr2_4_4 0 s4 x2_a4 0 1.662748359
Gr3_re_4_4 0 s4 x3_re_a4 0 -29462.0711
Gr3_im_4_4 0 s4 x3_im_a4 0 116383.2237
Gr4_re_4_4 0 s4 x4_re_a4 0 607066.2026
Gr4_im_4_4 0 s4 x4_im_a4 0 -45337.46476
Cx1_a4 x1_a4 0 7.197135224e-13
Gx1_a4 0 x1_a4 p4 0 0.06863474072
Fx1_a4 0 x1_a4 V4 3.431737036
Rp1_a4 0 x1_a4 1
Cx2_a4 x2_a4 0 9.08867254e-13
Gx2_a4 0 x2_a4 p4 0 0.06549476315
Fx2_a4 0 x2_a4 V4 3.274738157
Rp2_a4 0 x2_a4 1
Cx3_re_a4 x3_re_a4 0 1.675443854e-12
Gx3_re_a4 0 x3_re_a4 p4 0 6.172553113e-08
Fx3_re_a4 0 x3_re_a4 V4 3.086276557e-06
Rp3_re_re_a4 0 x3_re_a4 1
Gp3_re_im_a4 0 x3_re_a4 x3_im_a4 0 2.355968302
Cx3_im_a4 x3_im_a4 0 1.675443854e-12
Gp3_im_re_a4 0 x3_im_a4 x3_re_a4 0 -2.355968302
Rp3_im_im_a4 0 x3_im_a4 1
Cx4_re_a4 x4_re_a4 0 2.635686044e-12
Gx4_re_a4 0 x4_re_a4 p4 0 7.97579113e-08
Fx4_re_a4 0 x4_re_a4 V4 3.987895565e-06
Rp4_re_re_a4 0 x4_re_a4 1
Gp4_re_im_a4 0 x4_re_a4 x4_im_a4 0 2.720411116
Cx4_im_a4 x4_im_a4 0 2.635686044e-12
Gp4_im_re_a4 0 x4_im_a4 x4_re_a4 0 -2.720411116
Rp4_im_im_a4 0 x4_im_a4 1
.ENDS sparx_blc_le
